US07435815B2
N-Benzyl-2-[(4-tert-butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-N-(2-hydroxy-ethyl)-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-acetic acid with 2-benzylamino-ethanol

reactant | [(4-tert-butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=CC(=CC=C1)N(C)C)CC(=O)O | C20H26N2O4S
reactant | 2-benzylamino-ethanol | C(C1=CC=CC=C1)NCCO | C9H13NO
product | N-Benzyl-2-[(4-tert-butyl-benzenesulfonyl)-(3-dimethylamino-phenyl)-amino]-N-(2-hydroxy-ethyl)-acetamide | C(C1=CC=CC=C1)N(C(CN(C1=CC(=CC=C1)N(C)C)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)=O)CCO | C29H37N3O4S
